US06437184B1
First, 0.45 g of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone oxime and 10 ml of tert-butyl methyl ether are placed in a reaction vessel, to which 48 mg of 60% sodium hydride (in oil) is slowly added with stirring at room temperature in a stream of nitrogen gas. The mixture is stirred at room temperature until the evolution of hydrogen gas ceases, to which 0.29 g of tert-butyl bromoacetate is added at room temperature, and the mixture is further stirred with heating under reflux. After completion of the reaction, the reaction mixture is poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers are combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product is subjected to silica gel chromatography, which affords 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone O-(tert-butoxycarbonylmethyl)oxime.

reactant | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone oxime | 0.45 g | ClC1=C(OCCCCCOCC(C)=NO)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C17H21Cl4NO4
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | tert-butyl bromoacetate | 0.29 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | tert-butyl methyl ether | 10 ml | COC(C)(C)C | C5H12O
product | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetone O-(tert-butoxycarbonylmethyl)oxime | C(C)(C)(C)OC(=O)CON=C(C)COCCCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C23H31Cl4NO6
